US06001997
(e) t-Butyl (6R,7R)-7-Phenylacetamido-3-[(RS)-tetra-hydrofuran-3-yl]ceph-3-em-4-carboxylate
t-Butyl 2-[(3R,4R)-3-phenylacetamido-4-[(RS)-tetrahydrofuran-3-ylcarbonylmethylthio]azetidin-2-on-1-yl]-2-tri-n-butylphosphoranylideneacetate (1.496 g), thermolysed in toluene (30 ml) as for Example 1 (e) and purified by flash chromatography with 40, 50 and 60% ethyl acetate/hexane afforded the title compound as a yellow foam (0.28 g, 28%); νmax (CH2Cl2) 3411, 1702, 1718 and 1687 cm-1 ; δH (CDCl3) 1.52 (9 H, s), 1.43-2.39 (3 H, m's), 3.23 and 3.44 with 3.27 and 3.44 (2 H, 2ABq's J 17.7 Hz), 3.51-4.03 (6 H, m's), 4.94 and 4.96 (1 H, 2 d's, J 4.7 and 4.7 Hz), 5.74-5.82 (1 H, m), 6.03 and 6.04 (1 H, 2 d's, J 8.8 and 8.9 Hz) and 7.26-7.42 (5 H, m). [Mass spectrum: +ve ion (3NOBA, Na+) MNa+ (467)].

reactant | t-Butyl 2-[(3R,4R)-3-phenylacetamido-4-[(RS)-tetrahydrofuran-3-ylcarbonylmethylthio]azetidin-2-on-1-yl]-2-tri-n-butylphosphoranylideneacetate | 1.496 g | C1(=CC=CC=C1)CC(=O)N[C@@H]1C(N([C@@H]1SCC(=O)C1COCC1)C(C(=O)OC(C)(C)C)=P(CCCC)(CCCC)CCCC)=O | C35H55N2O6PS
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | t-Butyl (6R,7R)-7-Phenylacetamido-3-[(RS)-tetra-hydrofuran-3-yl]ceph-3-em-4-carboxylate | 0.28 g, 28% | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C2COCC2)C(=O)OC(C)(C)C)C1=O | C23H28N2O5S
